US05688946
20.5 g (34.07 mmol) of N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine methyl ester are dissolved in 180 ml of dioxan, treated with 85 ml (170.34 mmol) of 2N hydrochloric acid and subsequently heated to 80° for 2.5 hours. Usual working-up and crystallization from ether/hexane yields 15.7 g (78%) of N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine in the form of a pale yellow amorphous solid, Rf value 0.2 in a 5:1 mixture of methylene chloride and methanol, MS: 588 (M+H)+.

reactant | N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine methyl ester | 34.07 mmol, 20.5 g | COC([C@@H](NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C)C)=O)CC1=CN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C27H31N5O9S
reactant | hydrochloric acid | 170.34 mmol, 2N, 85 ml | Cl | ClH
solvent | dioxan | 180 ml | O1CCOCC1 | C4H8O2
product | N-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamoyl]-1-(2,4-dinitrophenyl)-L-histidine | 15.7 g, 78% | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@@H](CC1=CN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C(=O)O)CC1=CC=CC=C1 | C26H29N5O9S
